US06791738B2
2-Formyl-3,4-ethylenedioxypyrrole (19).
POCl3 (1.67 g, 10.92 mmol) was added to a solution of DMF (0.84 g, 11.44 mmol) in methylene chloride (5.0 mL) at 0° C. and the reaction mixture allowed to come to room temperature. The reaction mixture was then slowly added to a solution of 3,4-ethylenedioxypyrrole (1.3 g, 10.40 mmol) in methylene chloride (5.0 mL) at 0° C. and allowed to come to room temperature. After stirring for 12 h, an excess of 3.0 M NaOH solution was added and stirred for 2 h in a hot water bath. The reaction mixture was extracted with methylene chloride (40 mL×3) and the combined organic layers were dried over MgSO4. Purification of the residue was accomplished by chromatography on silica gel using hexane/ethyl acetate (2:1) as eluent to afford the product as a white solid (1.5 g, 65%): mp 147° C.; 1H NMR (300 MHz, CDCl3) δ9.43 (s, 1H), 9.02 (br, 1H), 6.62 (d, J=3.8 Hz, 1H), 4.24 (m, 4H); Anal. Calcd for C7H7NO3: C, 54.90; H, 4.61; N, 9.15. Found: C, 55.03; H, 4.48; N, 9.14.

reactant | POCl3 | 10.92 mmol, 1.67 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 11.44 mmol, 0.84 g | CN(C)C=O | C3H7NO
reactant | 3,4-ethylenedioxypyrrole | 10.40 mmol, 1.3 g | C1OC2=CNC=C2OC1 | C6H7NO2
reactant | NaOH | 3.0 M | [OH-].[Na+]
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 2-Formyl-3,4-ethylenedioxypyrrole | 1.5 g, 65% | C(=O)C=1NC=C2C1OCCO2 | C7H7NO3
